US07291631B2
Using General Procedure B, reaction of (3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine, 4-(tert-butyl-dimethyl-silanyloxy)-butyraldehyde and NaBH(OAc)3 in CH2Cl2 gave [4-(tert-butyl-dimethyl-silanyloxy)-butyl]-(3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine.

reactant | (3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | CC=1C(=NC=C(C1)C)NC1CCCC=2C=CC=NC12 | C16H19N3
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-butyraldehyde | C(C)(C)(C)[Si](OCCCC=O)(C)C | C10H22O2Si
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-(tert-butyl-dimethyl-silanyloxy)-butyl]-(3,5-dimethyl-pyridin-2-yl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | C(C)(C)(C)[Si](OCCCCN(C1CCCC=2C=CC=NC12)C1=NC=C(C=C1C)C)(C)C | C26H41N3OSi
